### PR TITLE
Prove `enlarge_L₀'_multiple` (Proposition 18.14)

### LINKED ISSUE #1142: 1729: Iterate enlarge_L0
Iterate [Proposition 18.13](https://teorth.github.io/equational_theories/blueprint/1729-chapter.html#enlarge-l0) `enlarge_L₀'` to obtain [Proposition 18.14](https://teorth.github.io/equational_theories/blueprint/1729-chapter.html#enlarge-l0-many) `enlarge_L₀'_multiple`.

When done, add a \leanok to the proof of Proposition 18.14.

Commentary: An induction on the cardinality of `A` should work here, and one does not need to know anything about `PartialSolution` or the proof of `enlarge_L₀'` other than that `PartialSolution` has an instance of `PreOrder`. (So perhaps one could create a more abstract, Mathlib-suitable lemma to formalize the general induction argument, and then specialize to this particular setting.)

It may also be possible to use the existing tool https://teorth.github.io/equational_theories/docs/equational_theories/Mathlib/Order/Greedy.html#exists_greedy_chain .

### PR DESCRIPTION
**Pull request by Aaron1011**
null

Closes #1142

### CODE REVIEW

File: equational_theories/ManuallyProved/Equation1729/MagmaConstruction.lean [hunk 1]
```diff
@@ -509,7 +509,24 @@ lemma enlarge_L₀' (sol : PartialSolution) (x:N)  : ∃ sol', sol ≤ sol' ∧
...
+    refine ⟨?_, ?_⟩
+    . exact Preorder.le_trans sol sol_prev solx hsol_le_solprev hsol_prev_le_solx
+    .
+      simp only [Finset.coe_insert]
+      refine Set.insert_subset_iff.mpr ⟨hx_solx, ?_⟩
+      . apply subset_trans hb_subset
+        apply fill_mono
+        dsimp [LE.le] at hsol_prev_le_solx
+        exact hsol_prev_le_solx.1
+
```
Comment (pitmonticone) [inline equational_theories/ManuallyProved/Equation1729/MagmaConstruction.lean:529]: Here is a slightly simplified version:

```suggestion
lemma enlarge_L₀'_multiple (sol : PartialSolution) (A: Finset N) :
    ∃ sol', sol ≤ sol' ∧ A.toSet ⊆ fill sol'.Predom_L₀' := by
  induction' A using Finset.induction_on with x B hx hprev
  . exact ⟨sol, by simp⟩
  . obtain ⟨sol_prev, hsol_le_solprev, hb_subset⟩ := hprev
    obtain ⟨solx, hsol_prev_le_solx, hx_solx⟩ := enlarge_L₀' sol_prev x
    refine ⟨solx, Preorder.le_trans sol sol_prev solx hsol_le_solprev hsol_prev_le_solx, ?_⟩
    rw [Finset.coe_insert]
    exact Set.insert_subset_iff.mpr
      ⟨hx_solx, subset_trans hb_subset <| fill_mono <| hsol_prev_le_solx.1⟩
```

I have tested locally so you can just commit directly if you like.

**Review by pitmonticone — APPROVED** [review]
I have just left a suggestion with a few minor improvements.
